US08975415B2
Under nitrogen, to a solution of (6-bromo-2,2-dimethyl-4-methylene-3,4-dihydro-2H-chromene-3,3-diyl)dimethanol (800 g, 2.55 mol) and MsCl (877.9 g, 7.66 mol) in THF (4.0 L) was added Et3N (851 g, 8.41 mol) over 45 minutes maintaining the temperature below 0-10° C. The reaction mixture was allowed to warm to room temperature and stirred for 1 hour. EtOH (8 L) and NaOH (1021.8 g, 25.55 mol) were added and the reaction mixture was heated under reflux for 16 hours. Water (4 L) was added and a clear solution was obtained. Most of the solvent was removed under reduced pressure and the resulting residue was extracted with ethyl acetate (1.5 L×2). The combined extracts were washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was dissolved in MeOH (640 mL) at 60° C. and the resulting solution was allowed to cool to room temperature. The precipitation formed was filtered-off. The filtrate was concentrated under reduced pressure and the residue was re-dissolved in MeOH (500 mL) at 60° C. The resulting solution was allowed to cool to room temperature and then further to 0-5° C. The mixture was stirred at 0-5° C. overnight and the precipitated yellow solid was collected by filtration to give 6-bromo-2,2-dimethyl-4-methylene-4H-spiro[chromene-3,3′-oxetane] (197.2 g). The filtrate was concentrated under reduced pressure and the residue was purified by column chromatography on silica gel (petroleum ether/ethyl acetate=50:1) to give another batch of 6-bromo-2,2-dimethyl-4-methylene-4H-spiro[chromene-3,3′-oxetane] (143.6 g).

reactant | (6-bromo-2,2-dimethyl-4-methylene-3,4-dihydro-2H-chromene-3,3-diyl)dimethanol | 2.55 mol, 800 g | BrC=1C=C2C(C(C(OC2=CC1)(C)C)(CO)CO)=C | C14H17BrO3
reactant | MsCl | 7.66 mol, 877.9 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Et3N | 8.41 mol, 851 g | CCN(CC)CC | C6H15N
reactant | NaOH | 25.55 mol, 1021.8 g | [OH-].[Na+]
solvent | THF | 4.0 L | C1CCOC1 | C4H8O
solvent | Water | 4 L | O | H2O
solvent | EtOH | 8 L | CCO | C2H6O
product | 6-bromo-2,2-dimethyl-4-methylene-4H-spiro[chromene-3,3′-oxetane] | 197.2 g | BrC=1C=C2C(C3(COC3)C(OC2=CC1)(C)C)=C | C14H15BrO2
